US08912188B2
To a solution of 5-bromo-2-hydroxybenzaldehyde (5 g, 24.87 mmol) in 1,4-dioxane (20 mL) was added KOAc (6.2 g, 63.18 mmol) and Pd(dppf)Cl2 (1.6 g, 2.19 mmol). The solution was stirred for 15 min at room temperature and then 4,4,5,5-tetramethyl-2-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (7.7 g, 30.32 mmol) was added. The resulting solution was stirred for 2 h at 85° C. Then the reaction was quenched by the addition of water (300 mL). The resulting solution was extracted with ethyl acetate (4×60 mL), dried over anhydrous sodium sulfate and concentrated in vacuo to give a residue, which was purified by silica gel column chromatography eluting with petroleum ether to afford 2-hydroxy-5-(tetramethyl-1,3,2-dioxaborolan-2-yl)benzaldehyde (4.8 g, 78%).

reactant | 5-bromo-2-hydroxybenzaldehyde | 24.87 mmol, 5 g | BrC=1C=CC(=C(C=O)C1)O | C7H5BrO2
reactant | KOAc | 63.18 mmol, 6.2 g | CC(=O)[O-].[K+]
reactant | 4,4,5,5-tetramethyl-2-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 30.32 mmol, 7.7 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 2.19 mmol, 1.6 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-hydroxy-5-(tetramethyl-1,3,2-dioxaborolan-2-yl)benzaldehyde | 4.8 g, 78% | OC1=C(C=O)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C13H17BO4
